US06114361
Step B: (3S,5R)-3-(4-Benzyloxyphenyl)-5-(tert-butyidimethylsilanyloxymethyl)-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of (5R)-3-(4-benzyloxyphenyl)-5-(tert-butyldimethylsilanyloxymethyl)-2-oxo-2,5-dihydro-pyrrole-1-carboxylic acid tert-butyl ester (2.0 g, 3.92 mmol) in ethyl acetate (40 mL) and hexane (40 mL) was treated with 20% palladium hydroxide on carbon (200 mg) and hydrogenated in a Parr™ shaker at 3 atmospheres pressure for 2 hours. The catalyst was removed by filtration and the solvent was evaporated to provide the title compound as a yellow oil (2.0 g, 100%).

reactant | (5R)-3-(4-benzyloxyphenyl)-5-(tert-butyldimethylsilanyloxymethyl)-2-oxo-2,5-dihydro-pyrrole-1-carboxylic acid tert-butyl ester | 3.92 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1C(C(=C[C@@H]1CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C29H39NO5Si
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | 40 mL | CCCCCC | C6H14
catalyst | palladium hydroxide on carbon | 200 mg | [OH-].[OH-].[Pd+2]
product | (3S,5R)-3-(4-Benzyloxyphenyl)-5-(tert-butyidimethylsilanyloxymethyl)-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.0 g, 100% | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@@H]1CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C29H41NO5Si
